US08217027B2
3-(4-Octyl-phenyl)-cyclopentanone, malonic acid (0.076 g, 0.734 mmol), ammonium acetate (0.057 g, 0.734 mmol) were suspended in the mixture of ethanol (1.50 mL, 25.7 mmol) and methanol (0.50 mL, 12.36 mmol) in a 15-mL, 2-necked round-bottomed flask equipped with a condenser. The heterogeneous mixture was heated to reflux at 80° C. for about 24 hours. Heating was removed. The crude mixture was taken up in dichloromethane/water mixture (20 mL/20 mL). The resulting fine suspension was filtered, washed several times with water and dichloromethane, and vacuum-dried to yield 2-(1-amino-3-(4-octylphenyl)cyclopentyl)acetic acid (0.020 g, 0.060 mmol) as off-white solid.

reactant | 3-(4-Octyl-phenyl)-cyclopentanone | C(CCCCCCC)C1=CC=C(C=C1)C1CC(CC1)=O | C19H28O
reactant | malonic acid | 0.734 mmol, 0.076 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 0.734 mmol, 0.057 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 25.7 mmol, 1.50 mL | C(C)O | C2H6O
reactant | methanol | 12.36 mmol, 0.50 mL | CO | CH4O
product | 2-(1-amino-3-(4-octylphenyl)cyclopentyl)acetic acid | 0.060 mmol, 0.020 g | NC1(CC(CC1)C1=CC=C(C=C1)CCCCCCCC)CC(=O)O | C21H33NO2
